US08440689B2
A. Methyl 2-(2-((tert-butoxycarbonylamino)methyl)piperidin-1-yl)-4-chloro-6-(m-tolylamino)pyrimidine-5-carboxylate
A mixture of methyl 2,4-dichloro-6-(m-tolylamino)pyrimidine-5-carboxylate (600.6 mg, 1.924 mmol), tert-butyl piperidin-2-ylmethylcarbamate (500.9 mg, 2.337 mmol) and N-ethyl-N-isopropylpropan-2-amine (0.4 mL, 2.296 mmol) in DMF (10 mL) was stirred at 0° C. for 3 h. Water (50 mL) was added to the mixture, which was extracted with EtOAc (2×40 mL). The organic layers were washed with saturated aq NaHCO3 (20 mL), water (20 mL) and brine (20 mL), were dried over anhydrous Na2SO4, and then filtered (DM1020). The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (SiO2, hexanes/EtOAc=4/1) to give the title compound as a clear oil (310.5 mg). 1H NMR (500 MHz, CDCl3) δ ppm 1.34-1.74 (m, 15H), 2.35-2.37 (m, 3H), 3.03-3.21 (m, 2H), 3.60-3.71 (m, 1H), 3.90 (s, 3H), 4.43-5.04 (m, 3H), 6.94-6.98 (m, 1H), 7.23-7.46 (m, 3H), 10.13-10.43 (m, 1H). [M+H] calc'd for C24H33ClN5O4, 490. found, 490.

reactant | methyl 2,4-dichloro-6-(m-tolylamino)pyrimidine-5-carboxylate | 1.924 mmol, 600.6 mg | ClC1=NC(=C(C(=N1)Cl)C(=O)OC)NC=1C=C(C=CC1)C | C13H11Cl2N3O2
reactant | tert-butyl piperidin-2-ylmethylcarbamate | 2.337 mmol, 500.9 mg | N1C(CCCC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.296 mmol, 0.4 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(2-((tert-butoxycarbonylamino)methyl)piperidin-1-yl)-4-chloro-6-(m-tolylamino)pyrimidine-5-carboxylate | 310.5 mg | C(C)(C)(C)OC(=O)NCC1N(CCCC1)C1=NC(=C(C(=N1)Cl)C(=O)OC)NC=1C=C(C=CC1)C | C24H32ClN5O4
